Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
L ___ digit ulceration
 
Major Surgical or Invasive Procedure:
Radical debridement of left ___ toe

 
History of Present Illness:
The patient is a ___ yo M p/w with an extensive cardiac
history, DM and PVD p/w an ulceration at the left ___ digit.  Pt
states that the ulcer has been present for many months, but he's
not sure exactly how long (per OMR ?months prior to ___.  The
patient is a poor historian, but notes that he does not have any
pain.  States that he has a visiting nurse help him with 
dressing
changes.  Presented to clinic for evaluation of wound. 

 
Past Medical History:
1. CHF: diastolic & systolic HF with CRI, EF 40-45% ___ ___ and 

___. CAD s/p 2V-CABG ___  
3. CVA: ___ days of slurred speech and right facial droop 

without residual symptoms. s/p CEA (documented however patient 
without memory of this procedure)
4. HTN  
5. Hyperlipidemia  
6. IDDM (retinopathy, nephropathy, neuropathy)
7. NSVT
8. Afib
9. PVD s/p R fem-pop (___), R ___ toe amputation, gangrene L 
___ toe s/p amp (___)  
10. CRI (b/l around 2.9-3.1)  
11. Colon ca s/p hemicolectomy
12. H/o diverticulosis
13. H/o angioectasia ___ stomach w/UGIB ___ and again ___ 
14. Prostate ca (dx'd ___: s/p orchiectomy (___), TURP (___) 

& pelvic XRT (___) with radiation 'proctopathy'.  
15. Iron deficiency anemia on bone marrow aspirate (___)  
16. Interstitial lung disease w/mediastinal LAD & a negative 
CMA. (Differential diagnosis included burned out sarcoidosis 
versus interstitial pulmonary fibrosis versus malignancy.) s/p 
flexible bronchoscopy and cervical mediastinoscopy with biopsies 

(___)
17. Left cataract surgery 

 
Social History:
___
Family History:
father: DM, alcohol related death
mother: DM,passed away giving birth to ___ child 
daughter: macular degeneration
 
Physical Exam:
Tc:97.6 Rate:76 BP:100/57 RR:18 P02:100% on RA ___
Appearance: NAD, AAOx3
Heart: RRR +murmur
Lungs: CTA b/l
Abdomen: Soft, NT/ND, (+)BS
VASCULAR
Pedal Pulses:      [] Palpable  [x] Non-palpable: monophasic
Sub-Papillary VFT: [] < 3 sec.  [x] > 3 sec. [] Immediate
Extremities:       [] pitting edema  [x] non-pitting edema
                   [] Anasarca
NEUROLOGICAL       Sensation:      [] Intact  [x] Absent
                   Proprioception: [x] Intact  [] Absent
INTEGUMENT:
Ulceration(s):     [x] Full thickness   [] Partial thickness
                   [] Pre/Post-ulcerative  [] Absent
Location:          [] Heel   [] Midfoot  [] Forefoot [x] Digital
Drainage:          [] Serous  [] Sanguineous [] Purulent
                   [x] Absent
Base:              [x] Granular  [] Fibrous  [] Eschar
                   [] Tendon/Capsule/Bone
Margins:           [x] Regular   [] Irregular [] Hyperkeratotic
                   [] Macerated [x] Thin/Atrophic
Qualities:         [x] Undermines  [] Tracks [x] Probes to bone
                   [] Malodorous
Nails:             [] WNL  [x] Thickened/Dystrophic
                   [x] Discolored [x] Subungual debris
DRESSING AND SPLINTS
Multipodus Boots:  [] Intact  [x] Absent
Dressing(s):       [] Clean Intact  [] Dry  [] Serous
                   [x] Sanguineous   [] Purulent [] Absent
 
Pertinent Results:
Admission Labs:

___ 08:10PM BLOOD WBC-5.1 RBC-4.19* Hgb-10.3* Hct-34.1* 
MCV-82 MCH-24.6* MCHC-30.2* RDW-20.7* Plt Ct-63*
___ 08:10PM BLOOD Neuts-80.6* Lymphs-13.9* Monos-3.9 
Eos-1.2 Baso-0.5
___ 08:10PM BLOOD ___ PTT-32.5 ___
___ 08:10PM BLOOD Plt Ct-63*
___ 08:10PM BLOOD Glucose-246* UreaN-29* Creat-2.3* Na-139 
K-5.0 Cl-104 HCO3-24 AnGap-16
___ 08:10PM BLOOD Calcium-8.5 Phos-3.3 Mg-2.0
___ 08:10PM BLOOD Digoxin-1.5
.
___  79  ___
Radiology ReportFOOT AP,LAT & OBL LEFTStudy Date of ___ 
5:37 ___
___ SCHED
FOOT AP,LAT & OBL LEFT Clip # ___  
Reason: bony changes
UNDERLYING MEDICAL CONDITION:
   ___ year old man with osteomyelitis, left foot ___ digit
REASON FOR THIS EXAMINATION:
   bony changes
Wet Read: ___ TUE ___ 7:46 ___
Worsening erosion and destruction ___ left ___ digit phalanges, 
with overlying
soft tissue defect, consistent with osteomyelitis.
Final Report
STUDY: Left foot, three views, ___.
 
HISTORY: ___ man with osteomyelitis and left foot digit 
bony changes.
 
FINDINGS: Comparison is made to prior study from ___.
 
The wet read for this study was as follows, "worsening erosive 
and destructive
changes ___ the left second digit phalanges, with overlying soft 
tissue defect,
consistent with osteomyelitis." Dictated by Dr. ___.
 
FINDINGS: There are postsurgical changes seen at the first ray 
with resection
of the big toe at the MTP joint. There are new destructive 
changes seen of
the second toe centered around the PIP joint and is very 
concerning for acute
osteomyelitis. Soft tissue swelling is seen. There is no soft 
tissue gas.
There is an ulceration, which extends to the area of bony 
destruction best
seen on the oblique view. Plantar spur and vascular 
calcifications are seen.
There are some early neuropathic changes seen at the TMT joints.
 
IMPRESSION:
Osteomyelitis of the second toe centered at the PIP joint. There 
is an
adjacent soft tissue ulcer.
.
___ 3:09 pm SWAB      Source: dorsal left ___ toe. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
PENICILLIN G----------  0.25 R
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 

.
___ 8:54 am TISSUE      ___ LEFT TOE BONE. 

   GRAM STAIN (Final ___: 
      REPORTED BY PHONE TO ___. ___ ON ___ AT 1035. 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   TISSUE (Final ___: 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 
.
Radiology ReportCHEST (PRE-OP PA & LAT)Study Date of ___ 
5:37 ___
 
___ SCHED
CHEST (PRE-OP PA & LAT) Clip # ___  
Reason: OSTEOMYELITIS;DIABETES
UNDERLYING MEDICAL CONDITION:
   ___ year old man with osteomyelitis, left foot ___ digit
REASON FOR THIS EXAMINATION:
   pre-op eval
Final Report
CLINICAL HISTORY: ___ male with osteomyelitis of the 
left foot second
digit. Pre-op evaluation.
 
PA and lateral chest radiograph compared to ___ shows 
worsening of
mild interstitial edema with re-accumulation of pleural fluid ___ 
the fissure
resulting ___ 2.9 cm apparent opacity ___ the left upper lung. 
Calcified
granuloma ___ the left upper lung is unchanged. The heart remains 
moderately
enlarged. Small left pleural effusion is slightly increased. 
Right IJ
hemodialysis catheter terminates ___ the deep right atrium.
 
IMPRESSION: Increased mild-to-moderate interstitial edema.
 
Brief Hospital Course:
#Left ___ digit ulceration:
-admitted for IV abx
-consulted Medicine & given clearance to bring to OR given 
multiple medical problems.
-brought to the OR for radical debridement (see OP report for 
full details)
-primarily closed, wound dressed with betadine paint with DSD 
daily
-f/u with Dr. ___ ___ 1 week
#CRI
-consulted Renal to continue HD ___ ___ as outpt)
#thrombocytopenia
-? heparin induced thrombocytopenia: stopped all heparin flushes 
on the floor and at HD
-consulted Hematology: rec HIT rule-out labs.
-Hematology to follow up all labs as an outpt and contact the 
patient with the results and appropriate follow up
.
D/C with VSS, f/u with Podiatry, Heme to f/u with pt on a prn 
basis.
 
Medications on Admission:
Calcitriol 0.25 mcg', Digoxin 0.0625 mg', Metoprolol Tartrate 75 
mg", Pantoprazole 40 mg", Simvastatin 10 mg', Aspirin 81 mg', 
Ferrous Sulfate 325 mg', Lantus 16 units qAM
 
Discharge Medications:
1. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
2. Digoxin 125 mcg Tablet Sig: ___ Tablet PO DAILY (Daily).  
3. Metoprolol Tartrate 50 mg Tablet Sig: 1.5 Tablets PO BID (2 
times a day).  
4. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. Insulin
Lantus 16 units qAM
9. Augmentin 500-125 mg Tablet Sig: One (1) Tablet PO every 
twelve (12) hours for 10 days.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ digit osteomyelitis

 
Discharge Condition:
Good

 
Discharge Instructions:
Please resume your pre-admission medications except the 
Pantoprazole (Protonix).  You were given new prescriptions, 
please take as directed.
.
Keep your dressing clean and dry at all times.  Nurses ___ need 
to change your dressing with betadine paint and dry sterile 
dressing every other day.
.
You are to remain FULL WEIGHT BEARING on your left foot ___ a 
surgical shoe with your walker at all times.  While ___ bed, 
please wear your multipodus splint.  Keep your left foot 
elevated to prevent swelling.
.
Call your doctor or go to the ED for any increase ___ left foot 
redness, swelling or purulent drainage from your wound, for any 
nausea, vomiting, fevers greater than 101.5, chills, night 
sweats or any worsening symptoms.
.
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet.
You should not receive any heparin at dialysis as you have 
pending labs.  Hematology will contact you if you need to follow 
up with them. 
 
Followup Instructions:
___